US08138197B2
4-Bromo-3,5-diethoxybenzoic acid
To a stirred solution of methyl 4-bromo-3,5-diethoxybenzoate (3 g) in a mixture of THF (25 ml) and MeOH (10 ml) was added aqueous 1N NaOH (20 ml) and the reaction mixture was stirred at room temperature for 6 h. The mixture was concentrated under reduced pressure, the residue was diluted with H2O and diethylether. The aqueous layer was acidified with 1N HCl aq., the mixture was extracted with CHCl3 and dried over sodium sulphate. After filtration and concentration, the residue was dried in vacuo to give the crude title compound as a colorless solid. Thus obtained crude product was used in the next step without further purification.

reactant | methyl 4-bromo-3,5-diethoxybenzoate | 3 g | BrC1=C(C=C(C(=O)OC)C=C1OCC)OCC | C12H15BrO4
reactant | NaOH | 1N, 20 ml | [OH-].[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | MeOH | 10 ml | CO | CH4O
product | 4-Bromo-3,5-diethoxybenzoic acid | BrC1=C(C=C(C(=O)O)C=C1OCC)OCC | C11H13BrO4
